US04814332
0.1 g of 1-amino-2-(4-methoxyphenyl)imidazole is dissolved in 10 ml of dichloromethane. The solution is treated portionwise during 8 days with 0.29 g of O-diphenylphosphinylhydroxylamine, evaporated and the residue is suspended in 10 ml of water. The difficultly soluble diphenylphosphinic acid is removed by filtration and the filtrate is placed on a column loaded with Amberlite IRA 400 (chloride), whereupon the column is eluted with water. There is obtained 1,3-diamino-2-(4-methoxyphenyl)imidazolium chloride.

reactant | 1-amino-2-(4-methoxyphenyl)imidazole | 0.1 g | NN1C(=NC=C1)C1=CC=C(C=C1)OC | C10H11N3O
reactant | O-diphenylphosphinylhydroxylamine | 0.29 g | C1(=CC=CC=C1)P(=O)(ON)C1=CC=CC=C1 | C12H12NO2P
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1,3-diamino-2-(4-methoxyphenyl)imidazolium chloride | [Cl-].N[N+]1=C(N(C=C1)N)C1=CC=C(C=C1)OC | InChI=1S/C10H13N4O.ClH/c1-15-9-4-2-8(3-5-9)10-13(11)6-7-14(10)12;/h2-7H,11-12H2,1H3;1H/q+1;/p-1
